US06506901B2
Step C: (2S)-1-(9H-Carbazol-4-yloxy)-3-{[1-(3,3,3-trifluoro-propyl)-piperidin-4-ylmethyl]-amino}-propan-2-ol
Prepared from 260 mg (1.09 mmol) of 4-[(2S)-oxiranylmethoxy]-9H-carbazole and 229 mg (1.09 mmol) of 4-aminomethyl-1-(3,3,3-trifluoropropyl)-piperidine according to the procedure used for Example 2 to give 0.089 g of the title compound as a white solid (Et2O, EtOAc/hexane).

reactant | 4-[(2S)-oxiranylmethoxy]-9H-carbazole | 1.09 mmol, 260 mg | O1[C@@H](C1)COC1=CC=CC=2NC3=CC=CC=C3C12 | C15H13NO2
reactant | 4-aminomethyl-1-(3,3,3-trifluoropropyl)-piperidine | 1.09 mmol, 229 mg | NCC1CCN(CC1)CCC(F)(F)F | C9H17F3N2
product | (2S)-1-(9H-Carbazol-4-yloxy)-3-{[1-(3,3,3-trifluoro-propyl)-piperidin-4-ylmethyl]-amino}-propan-2-ol | 0.089 g | C1=CC=C(C=2C3=CC=CC=C3NC12)OC[C@H](CNCC1CCN(CC1)CCC(F)(F)F)O | C24H30F3N3O2
